US06531491B1
A solution of 3-phenoxy-cyclohex-2-enone (301 mg, 1.6 mmol) in 1 mL of THF was added to a stirred solution of 1.0 M solution of lithium bis(trimethylsilyl)amide in THF (3.2 mL) at −78° C. After 15 min, cinnamoyl chloride (266 mg, 1.6 mmol) was added all at once. After 15 min, the reaction mixture was poured into 0.5 N HCl and extracted with EtOAc (2×). The combined organic layers were washed with saturated NaCl solution, dried (MgSO4), filtered, and concentrated under reduced pressure. Chromatography of the residue with 4:1 hexanes/ethyl acetate as eluant provided 220 mg (43%) of 3-phenoxy-6-(3-phenyl-acryloyl)-cyclohex-2-enone as a yellow solid (220 mg, 43%): 1H NMR (CDCl3) (enol form) δ 2.66 (t, 2H, J=7.2 Hz), 2.84 (t, 2H, J=7.1 Hz), 5.11 (s, 1H), 6.86 (d, 1H, J=15.6 Hz), 7.02 (d, 2H, J=8.1 Hz), 7.20 (m, 2H), 7.28-7.38 (m, 3H). HRMS M+H+ calc: 319.1334, found 319.1340.

reactant | 3-phenoxy-cyclohex-2-enone | 1.6 mmol, 301 mg | O(C1=CC=CC=C1)C1=CC(CCC1)=O | C12H12O2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | cinnamoyl chloride | 1.6 mmol, 266 mg | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | HCl | 0.5 N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 3.2 mL | C1CCOC1 | C4H8O
product | 3-phenoxy-6-(3-phenyl-acryloyl)-cyclohex-2-enone | 220 mg | O(C1=CC=CC=C1)C1=CC(C(CC1)C(C=CC1=CC=CC=C1)=O)=O | C21H18O3
